US05618808
A mixture of 13.10 g (37.9 mmol) of S-(o-aminophenyl)-N-carbobenzyloxy-D-cysteine and 7.27 g (37.9 mmol) of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride in 82 mL of DMF was stirred at room temperature for 2 hours. To this solution was added 330 mL of ethyl acetate. The mixture was extracted 4 times with 200 mL of 1N NaOH. The ethyl acetate solution was dried with magnesium sulfate (MgSO4) and evaporated to a white amorphous residue. The residue was triturated with ether, and the resulting white crystals were filtered to yield 6.70 g (54%) of 3(S)-[(Carbobenzyloxy)amino]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one as a white solid.

reactant | S-(o-aminophenyl)-N-carbobenzyloxy-D-cysteine | 37.9 mmol, 13.10 g | NC1=C(C=CC=C1)SC[C@@H](NC(=O)OCC1=CC=CC=C1)C(=O)O | C17H18N2O4S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 37.9 mmol, 7.27 g | Cl.CN(CCCN=C=NCC)C
reactant | ethyl acetate | 330 mL | C(C)(=O)OCC | C4H8O2
solvent | DMF | 82 mL | CN(C)C=O | C3H7NO
product | 3(S)-[(Carbobenzyloxy)amino]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 6.70 g, 54% | C(=O)(OCC1=CC=CC=C1)N[C@@H]1CSC2=C(NC1=O)C=CC=C2 | C17H16N2O3S
